US04898986
2,3,4,6-Tetra-O-(tetrahydropyranyl)-1-C-(1,3-dithianyl)-D-glucitol
Lithium aluminum hydride (1.74 g) was added in small portions under ice-cooling to a solution of 2,3,4,6-tetra-O-(tetrahydropyranyl)-1-C-(1,3-dithian-2-yl)-D-glucopyranose (6.9 g) in tetrahydrofuran-ethyl ether (3:1, 100 mL), and stirred at the same temperature for 5 hours. Methanol (10 mL) was added to the mixture to work up the reaction, and then evaporated under reduced pressure. To the residue were added ethyl acetate (100 mL) and 2N hydrochloric acid (80 mL), the insoluble substances were filtrated off. The organic layer was separated, washed with water and saturated sodium hydrogencarbonate solution, dried over anhydrous sodium sulfate, and evaporated under reduced pressure. The residue was chromatographed on a column of silica gel (400 mL). The column was washed with toluene (500 mL) and eluted with toluene-ethyl acetate (3:2) and then with toluene-ethyl acetate (1:2). The compounds supposed to be the two stereoisomers ((1R)- and (1S)-isomers) of 2,3,4,6-tetra-O-(tetrahydropyranyl)-1-C-(1,3-dithian-2-yl)-D-glucitol were eluted separately. The fraction eluted with toluene-ethyl acetate (3:2) was evaporated to dryness under reduced pressure to give a colorless syrup (3.45 g), and the fraction eluted with toluene-ethyl acetate (1:2) was evaporated to dryness under reduced pressure to give a colorless syrup (1.52 g). The isomer eluted with toluene-ethyl acetate (3:2): Elemental analysis for C30H52O10S2 : Calc.(%): C, 56.58; H, 8.23; S, 10.07. Found(%): C, 56.60; H, 8.25; S, 10.23. The isomer eluted with toluene-ethyl acetate (1:2): Elemental analysis for C30H52O10S2 : Calc.(%): C, 56.58; H, 8.23; S, 10.07. Found(%): C, 56.93; H, 8.02; S, 9.73.

reactant | Lithium aluminum hydride | 1.74 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,3,4,6-tetra-O-(tetrahydropyranyl)-1-C-(1,3-dithian-2-yl)-D-glucopyranose | 6.9 g | O1C(CCCC1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OC1OCCCC1)OC1OCCCC1)COC1OCCCC1)C1SCCCS1 | C30H50O10S2
reactant | Methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran ethyl ether | 100 mL | O1CCCC1.C(C)OCC
product | 2,3,4,6-Tetra-O-(tetrahydropyranyl)-1-C-(1,3-dithianyl)-D-glucitol | 3.45 g | O1C(CCCC1)O[C@@H](C(O)C1SCCCS1)[C@@H](OC1OCCCC1)[C@H](OC1OCCCC1)[C@H](O)COC1OCCCC1 | C30H52O10S2
